US06884801B1
2-Bromo-2′-nitroacetophenone (2.69 g, 11.0 mmol) in acetonitrile (20 mL) was cooled to 0° C. under nitrogen and treated with tetrabutylammonium azide (3.29 g, 11.6 mmol, TCI America, Portland, Oreg.) in acetonitrile (20 mL) dropwise. After stirring at room temperature for 30 minutes, the solution was poured into ice water (100 mL) and extracted with diethyl ether (3×30 mL). The extracts were combined, dried over magnesium sulfate, and the volatiles were removed by evaporation under reduced pressure to yield 2.19 g of 2-azido-2′-nitroacetophenone.

reactant | 2-Bromo-2′-nitroacetophenone | 11.0 mmol, 2.69 g | BrCC(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | tetrabutylammonium azide | 11.6 mmol, 3.29 g | [N-]=[N+]=[N-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 2-azido-2′-nitroacetophenone | 2.19 g | N(=[N+]=[N-])CC(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C8H6N4O3
